* C:\Users\qitia\Desktop\Qi UWaterloo\Projects\dc-dc\DC_DC converter\LT1083 LDO.asc
V1 N001 0 PWL(0 0 1 27)
C1 N001 0 10µ
R1 Vout N002 100
C2 Vout 0 10µ
R2 N002 0 863
XU1 N002 Vout N001 LT1083
R3 Vout N003 500
D1 N003 0 W5AP-LZMZ-5K8L
D2 Vout N001 1N5818
.model D D
.lib C:\Users\qitia\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib LT1083.lib
.backanno
.end
